US07626030B2
Step (a) Preparation of 3-amino-1-methyl-1H-indazol-6-ol
A solution of 6-fluoro-4-hydroxy benzonitrile (Aldrich, 10.1 g, 73.9 mmol) in methyl hydrazine (Aldrich, 20.0 mL, 379 mmol) was stirred at 80° C. for 16 h. After cooling to RT, the volatile portion was removed in vacuo. The residue was triturated with DCM and MeOH. The title compound was obtained by filtration as an off-white solid. The filtrate was concentrated in vacuo and purified by silica gel chromatography (DCM/MeOH: 100/0 to 95/5) to give an additional amount of the title compound as a white solid.

reactant | 6-fluoro-4-hydroxy benzonitrile | 73.9 mmol, 10.1 g | FC1=CC(=CC=C1C#N)O | C7H4FNO
reactant | methyl hydrazine | 379 mmol, 20.0 mL | CNN | CH6N2
product | 3-amino-1-methyl-1H-indazol-6-ol | NC1=NN(C2=CC(=CC=C12)O)C | C8H9N3O
